US05948785
To a solution of DL-phenylalanine (25.26 g, 0.1529 mol) in 1,4-dioxane (300 mL), 1N aqueous sodium hydroxide solution (153 mL) and water (153 mL) was added dropwise di-tert-butyl dicarbonate (39 mL, 0.17 mol) under ice-cooling. The resulting mixture was allowed to warm to room temperature with stirring for 21 h, and concentrated to ca. 200 mL. Ethyl acetate (450 mL) was added to the concentrate and then citric acid was added under ice-cooling to adjust the pH to 3. The organic layer was separated, and the aqueous layer was further extracted with ethyl acetate. The combined organic layers were washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to give 35.42 g (87%) of N-tert-butoxycarbonyl-DL-phenylalanine as colorless crystals.

reactant | DL-phenylalanine | 0.1529 mol, 25.26 g | NC(CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | di-tert-butyl dicarbonate | 0.17 mol, 39 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1N, 153 mL | [OH-].[Na+]
solvent | water | 153 mL | O | H2O
product | N-tert-butoxycarbonyl-DL-phenylalanine | 35.42 g, 87% | C(C)(C)(C)OC(=O)NC(CC1=CC=CC=C1)C(=O)O | C14H19NO4
